US09340538B2
4-((6-(2-chloro-4-fluorophenyl)-2-(3,5-difluoropyridin-2-yl)-5-(ethoxycarbonyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(3,5-difluoropyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.75 g, 1.53 mmol) (The compound was synthesized according to the procedure as described in U.S. Pat. No. 7,074,784) was reacted with morpholine-3-carboxylic acid (0.2 g, 1.53 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (0.54 g, 65%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(3,5-difluoropyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.75 g | BrCC1=C(C(N=C(N1)C1=NC=C(C=C1F)F)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C19H14BrClF3N3O2
reactant | morpholine-3-carboxylic acid | 1.53 mmol, 0.2 g | N1C(COCC1)C(=O)O | C5H9NO3
product | 4-((6-(2-chloro-4-fluorophenyl)-2-(3,5-difluoropyridin-2-yl)-5-(ethoxycarbonyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.54 g, 65% | ClC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C1=NC=C(C=C1F)F)CN1C(COCC1)C(=O)O)C(=O)OCC | C24H22ClF3N4O5
